US06803384B2
Hexabutyldistannane (3.9 mL, 7.7 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (103 mg, 0.09 mmol) were added to a solution of 1-[(4-bromo-2-chlorobenzoyl)oxy]-2,5-pyrrolidinedione (1.78 g, 5.4 mmol) in toluene (50 mL), and the solution was stirred at reflux for 6 h. The solvent was removed under reduced presure, and the oily residue was loaded onto a short plug of SiO2, washed with hexane, then eluted with 30% ethyl acetate hexanes. The solvent was evaporated and the residue was chromotagraphed (30% % ethyl acetate hexane) to give 1-[[2-chloro-4-(tributylstannyl)benzoyl]oxy]-2,5-pyrrolidinedione (1.74 g, 60%) as a colorless oil.

reactant | Hexabutyldistannane | 7.7 mmol, 3.9 mL | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | 1-[(4-bromo-2-chlorobenzoyl)oxy]-2,5-pyrrolidinedione | 5.4 mmol, 1.78 g | BrC1=CC(=C(C(=O)ON2C(CCC2=O)=O)C=C1)Cl | C11H7BrClNO4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[[2-chloro-4-(tributylstannyl)benzoyl]oxy]-2,5-pyrrolidinedione | 1.74 g, 60% | ClC1=C(C(=O)ON2C(CCC2=O)=O)C=CC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H7ClNO4.3C4H9.Sn/c12-8-4-2-1-3-7(8)11(16)17-13-9(14)5-6-10(13)15;3*1-3-4-2;/h1,3-4H,5-6H2;3*1,3-4H2,2H3;
